US06699904B2
Synthesized from 2-benzyloxy-3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-propionic acid ethyl ester using procedures analogous to that used for Example 8 immediately followed by Example 10 and substituting 1-isocyanato-4-isopropyl-benzene in the place of 2,4-dimethoxyphenylisocyanate to give crude 2-benzyloxy-3-(4-{2-[1-heptyl-3-(4-isopropyl-phenyl)-ureido]-ethyl}-phenyl)-propionic acid ethyl ester.

reactant | 2-benzyloxy-3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)CCN(CCCCCCC)C(=O)OC(C)(C)C)OCC1=CC=CC=C1)=O | C32H47NO5
reactant | 1-isocyanato-4-isopropyl-benzene | N(=C=O)C1=CC=C(C=C1)C(C)C | C10H11NO
product | 2-benzyloxy-3-(4-{2-[1-heptyl-3-(4-isopropyl-phenyl)-ureido]-ethyl}-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)CCN(C(=O)NC1=CC=C(C=C1)C(C)C)CCCCCCC)OCC1=CC=CC=C1)=O | C37H50N2O4
